US08048887B2
2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate
To a mixture of 2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide (5 g, 17.5 mmol, 1 eq) in Dichloromethane (50 ml) at ambient temperature under N2 was added triethylamine (2.6 g, 26 mmol, 1.5 eq). The mixture was cooled to 0° C. and then added 1,1,1-trifluoro-N-phenyl-N(trifluoromethylsulphonyl)methane sulphonamide (7.5 g, 21 mmol, 1.2 eq). The mixture was then stirred at ambient temperature for 12 h. The reaction mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer is further washed twice with water, dried over sodium sulphate and concentrated to get the product. The product was further purified by column chromatography using 230-400 silica gel and 50% EtOAc/Hexane. Yield: 6.2 g (85%). 1H NMR (400 MHz, DMSO-d6): δ 2.83-2.84 (d, 3H, J=4.6 Hz), 7.40-7.44 (t, 2H, J=8.9 Hz), 7.51-7.53 (m, 1H), 7.75-7.76 (d, 1H, J=2.52 Hz), 7.88-7.90 (d, 1H, J=8.96 Hz), 7.94-7.98 (m, 2H),) 8.51-8.52 (d, 1H, J=4.6 Hz). LCMS: (ES+) m/z=418 (M+H).

reactant | 2-(4-fluorophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | 17.5 mmol, 5 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)O | C16H12FNO3
reactant | triethylamine | 26 mmol, 2.6 g, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N(trifluoromethylsulphonyl)methane sulphonamide | 21 mmol, 7.5 g, 1.2 eq | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)(F)F | C17H11F4NO5S
